US04065524
A. Preparation of m-azidosulphonyl-benzoic acid
In a three-necked flask fitted with stirrer and dropping funnel 65 g of sodium azide is dissolved in 900 ccs of water. While stirring and cooling till 0°-5° C a solution of 198 g of m-chlorosulphonyl-benzoic acid in 900 ccs of acetone is added dropwise. Then stirring is continued for 30 minutes whereupon the solution obtained is poured into 2 liters of water. The white precipitate formed is sucked off, washed with water and dried in vacuo. Melting point: 143° C.

reactant | sodium azide | 65 g | [N-]=[N+]=[N-].[Na+]
reactant | m-chlorosulphonyl-benzoic acid | 198 g | ClS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C7H5ClO4S
reactant | acetone | CC(=O)C | C3H6O
solvent | water | O | H2O
solvent | water | 2 liters | O | H2O
product | m-azidosulphonyl-benzoic acid | N(=[N+]=[N-])S(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C7H5N3O4S
